US08378118B2
Step-II: synthesis of 4-Methoxy-5-methyl-2-(4-nitro-phenoxy)-indan-1-one
To a stirred solution of 2-Bromo-4-methoxy-5-methyl-indan-1-one (2.0 gm, 0.0078 mole) in Dimethylformamide (15 ml), added Sodium salt of 4-Nitrophenol (1.27 gm, 0.0078 mole) at 10-15° C. After 2 hours stirring at 25-28° C., reaction mixture was poured into water (50 ml). The separated solid was filtered, washed with hexane and dried under vacuum to give 1.8 gm of desired product as a solid

reactant | 2-Bromo-4-methoxy-5-methyl-indan-1-one | 0.0078 mole, 2.0 gm | BrC1C(C2=CC=C(C(=C2C1)OC)C)=O | C11H11BrO2
reactant | Sodium | [Na] | Na
reactant | 4-Nitrophenol | 0.0078 mole, 1.27 gm | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | water | 50 ml | O | H2O
solvent | Dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-Methoxy-5-methyl-2-(4-nitro-phenoxy)-indan-1-one | 1.8 gm, Yield: 73.4% | COC1=C2CC(C(C2=CC=C1C)=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H15NO5
